US05728650
A. Preparation of 3,3-bis(diethoxylphosphinyl)-propanoic acid
A solution of NaOH (4.00 g, 100 mmol) in water (50 ml) was added to a solution of ethyl 3,3-bis(diethoxyphosphinyl)propionate (32.6 g, 87 mmol) in EtOH (100 ml), and heated at 80° C. for 1 hour. After cooling, the EtOH was evaporated, and the residue was acidified to methyl orange with 12N HCl. The product was extracted into dichloromethane (5×50 ml). The organic layer was dried (Na2SO4) and concentrated to give the title compound (28.8 g, 96%) as a viscous oil.

reactant | NaOH | 100 mmol, 4.00 g | [OH-].[Na+]
reactant | ethyl 3,3-bis(diethoxyphosphinyl)propionate | 87 mmol, 32.6 g | C(C)OP(=O)(C(CC(=O)OCC)P(=O)(OCC)OCC)OCC | C13H28O8P2
solvent | water | 50 ml | O | H2O
solvent | EtOH | 100 ml | CCO | C2H6O
product | 3,3-bis(diethoxylphosphinyl)-propanoic acid | 28.8 g, 96% | O(CC)P(=O)(C(CC(=O)O)P(=O)(OCC)OCC)OCC | C11H24O8P2
